US04260755
6-(3-Chlorophenyl)-3-(trifluoromethyl)-1,2,4-triazolo[4,3-b]pyridazine
As for Example 11, 6-(3-chlorophenyl)-3-hydrazinopyridazine is reacted with trifluoroacetic anhydride in refluxing pyridine to give the product of the Example.

reactant | 6-(3-chlorophenyl)-3-hydrazinopyridazine | ClC=1C=C(C=CC1)C1=CC=C(N=N1)NN | C10H9ClN4
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-(3-Chlorophenyl)-3-(trifluoromethyl)-1,2,4-triazolo[4,3-b]pyridazine | ClC=1C=C(C=CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C12H6ClF3N4
